US09145380B2
c) N,N-Diallyl-4-aminopyridine-3-sulfonamide
A mixture of N,N-diallyl-4-chloropyridine-3-sulfonamide (1.5 g, 5.5 mmol), lithium iodide (0.74 g, 5.5 mmol) and ammonia (7 M in methanol, 14 mL, 5.5 mmol) under an atmosphere of argon was heated at 120° C. for 2 h in a microwave reactor. Silica was added and the solvent was evaporated. Purification by column chromatography, using chloroform/methanol (95:5) as the eluent, gave the title compound in 59% yield.

reactant | N,N-diallyl-4-chloropyridine-3-sulfonamide | 5.5 mmol, 1.5 g | C(C=C)N(S(=O)(=O)C=1C=NC=CC1Cl)CC=C | C11H13ClN2O2S
reactant | lithium iodide | 5.5 mmol, 0.74 g | [I-].[Li+]
reactant | ammonia | 5.5 mmol, 7 M, 14 mL | N | H3N
product | N,N-Diallyl-4-aminopyridine-3-sulfonamide | 59% yield | C(C=C)N(S(=O)(=O)C=1C=NC=CC1N)CC=C | C11H15N3O2S
